US04021539
N-(1,3-dihydroxy-2-methyl-2-propyl)-glucamine
The product was made from D-glucose and 1,3-dihydroxy-2-methyl-2-amino-propane comparable as in Example A. A resin-like, colorless product was obtained.

reactant | D-glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | 1,3-dihydroxy-2-methyl-2-amino-propane | OCC(CO)(N)C | C4H11NO2
product | N-(1,3-dihydroxy-2-methyl-2-propyl)-glucamine | OCC(CO)(C)NC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C10H23NO7
